US08247421B2
Step 4B: tert-butyl 4-((1R)-1-(5-cyano-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)ethyl)piperidine-1-carboxylate
5-cyano-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-yl diethyl phosphate (200 mg, 0.3359 mmol) was treated with a solution of (R)-tert-butyl 4-(1-aminoethyl)piperidine-1-carboxylate (76.70 mg, 0.3359 mmol) in THF (2 mL), and diisopropylethylamine (70.22 μL, 0.4031 mmol). The reaction mixture was stirred at room temperature for 24 hours. The crude mixture was diluted with ethyl acetate and washed with aqueous NaHCO3. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified on silica gel by flash column chromatography to afford the title compound as a colourless glass (188 mg, 84% yield).

reactant | 5-cyano-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-yl diethyl phosphate | 0.3359 mmol, 200 mg | P(=O)(OC1=NC=C(C(=N1)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2)C#N)(OCC)OCC | C24H21F3N5O6PS
reactant | (R)-tert-butyl 4-(1-aminoethyl)piperidine-1-carboxylate | 0.3359 mmol, 76.70 mg | N[C@H](C)C1CCN(CC1)C(=O)OC(C)(C)C | C12H24N2O2
reactant | diisopropylethylamine | 0.4031 mmol, 70.22 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-((1R)-1-(5-cyano-4-(1-tosyl-5-(trifluoromethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)pyrimidin-2-ylamino)ethyl)piperidine-1-carboxylate | 188 mg, 84% yield | C(#N)C=1C(=NC(=NC1)N[C@H](C)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CN(C2=NC=C(C=C21)C(F)(F)F)S(=O)(=O)C2=CC=C(C)C=C2 | C32H34F3N7O4S
